US09108936B2
To a suspension of sodium hydride (60% suspension in mineral oil, 0.54 g, 13.6 mmol) in dry tetrahydrofuran (15 ml) is added ethanethiol (0.36 ml, 4.84 mmol) at 0° C. After effervescence has ceased, a solution of 2,4-dichloro-6-methyl-benzonitrile (1.00 g, 5.37 mmol) in THF (5 ml) is added drop wise at 0° C. The reaction mixture is stirred at RT for 16 h. After completion of the reaction (monitored by TLC), the reaction is quenched with ice water and extracted with ethyl acetate (3×30 ml). The organic layer is washed with saturated sodium hydrogen carbonate solution (20 ml), water (20 ml), brine (20 ml), dried over anhydrous sodium sulfate and evaporated to get the crude product, which is purified by column chromatography (silica gel, 5% dichloromethane/hexane) to yield 4-chloro-2-ethylsulfanyl-6-methyl-benzonitrile (0.50 g, 2.37 mmol, 44%).

reactant | sodium hydride | 13.6 mmol, 0.54 g | [H-].[Na+]
reactant | ethanethiol | 4.84 mmol, 0.36 ml | C(C)S | C2H6S
reactant | 2,4-dichloro-6-methyl-benzonitrile | 5.37 mmol, 1.00 g | ClC1=C(C#N)C(=CC(=C1)Cl)C | C8H5Cl2N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-chloro-2-ethylsulfanyl-6-methyl-benzonitrile | 2.37 mmol, 0.50 g, 44% | ClC1=CC(=C(C#N)C(=C1)C)SCC | C10H10ClNS
